US06673825B2
4-(3,5-Dichlorophenyl)-[1,2,4]triazolidine-3,5-dione
A suspension of 4-(3,5-dichlorophenyl)-1-(methoxycarbonyl)semicarbazide (30.3 g, 109 mmol) (Preparation 2) in KOH (54.5 ml, 4M) was heated under reflux for 1 h. After cooling to RT, the insoluble material was discarded and the filtrate acidified to pH 1-2. The precipitate was filtered, washed with water and pentane, and oven dried to yield the above compound as a white solid (27 g, mp=260° C.). 1H NMR (DMSO-d6): 10.80 (2H, s), 7.66 (3H, m).

reactant | 4-(3,5-dichlorophenyl)-1-(methoxycarbonyl)semicarbazide | 109 mmol, 30.3 g | ClC=1C=C(C=C(C1)Cl)NC(NNC(=O)OC)=O | C9H9Cl2N3O3
solvent | KOH | 4M, 54.5 ml | [OH-].[K+]
product | 4-(3,5-Dichlorophenyl)-[1,2,4]triazolidine-3,5-dione | 27 g | ClC=1C=C(C=C(C1)Cl)N1C(NNC1=O)=O | C8H5Cl2N3O2
